US07714009B2
7-[(4-Chlorophenyl)(isopropyl)amino]-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
To a mixture of 7-[(4-chlorophenyl)(isopropyl)amino]-3-(4-methoxybenzyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one (80 mg, 0.18 mmol) and trifluoroacetic acid (3 ml) was stirred at 65° C. for 19 h. The mixture was concentrated in vacuo, diluted with saturated aqueous sodium bicarbonate (20 ml) and extracted with ethyl acetate (30 ml). The extract was washed with water, dried over magnesium sulfate and evaporated. The residue was flash chromatographed eluting with a 33% ethyl acetate/hexanes to give 26.8 mg (34%) of the title compound as an oil.

reactant | 7-[(4-chlorophenyl)(isopropyl)amino]-3-(4-methoxybenzyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 0.18 mmol, 80 mg | ClC1=CC=C(C=C1)N(C1=CC=CC2=C1N(C(N2CC2=CC=C(C=C2)OC)=O)C)C(C)C | C25H26ClN3O2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-[(4-Chlorophenyl)(isopropyl)amino]-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 26.8 mg, 34% | ClC1=CC=C(C=C1)N(C1=CC=CC2=C1N(C(N2)=O)C)C(C)C | C17H18ClN3O
